US07321040B2
6-Bromo-3-(2-chloro-Phenyl)-[1,2,4]triazolo[4,3-a]pyridine
A mixture of 2-chloro-benzoic acid N′-(5-bromo-pyridin-2-yl)hydrazide (2.96 g, 9.1 mmol) in POCl3 (15 mL) was heated at 85° C. for 48 hours. The solvent was removed in vacuo, and the residue quenched with saturated Na2CO3 and EtOAc. The layers were separated, and the organic layer concentrated in vacuo to minimal volume. The resulting solid was filtered and purified by flash chromatography to give the title compound (0.85 g, 30%).

reactant | 2-chloro-benzoic acid N′-(5-bromo-pyridin-2-yl)hydrazide | 9.1 mmol, 2.96 g | BrC=1C=CC(=NC1)NNC(C1=C(C=CC=C1)Cl)=O | C12H9BrClN3O
solvent | POCl3 | 15 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-Bromo-3-(2-chloro-Phenyl)-[1,2,4]triazolo[4,3-a]pyridine | 0.85 g, 30% | BrC=1C=CC=2N(C1)C(=NN2)C2=C(C=CC=C2)Cl | C12H7BrClN3
